US05393459
0.11 mol of DAST is added at -30° C. to a solution of 0.1 mol of 2-(p-octyloxyphenyl)-5-(3-hydroxy-6-oxanonyl)pyridine (obtainable by reaction of 2-(p-octyloxyphenyl)-5-methylpyridine with LDA at -40° C. and optically active 1,2-epoxy-5-oxaoctane) in methylene chloride, and the reaction mixture is then warmed slowly to room temperature. After 12 hours, the mixture is subjected to customary work-up, and the product is purified by crystallization, to give optically active 2-(p-octyloxyphenyl)-5-(3-fluoro-6-oxanonyl)pyridine.

reactant | DAST | 0.11 mol | CCN(CC)S(F)(F)F | C4H10F3NS
reactant | 2-(p-octyloxyphenyl)-5-(3-hydroxy-6-oxanonyl)pyridine | 0.1 mol | C(CCCCCCC)OC1=CC=C(C=C1)C1=NC=C(C=C1)CCC(CCOCCC)O | C27H41NO3
reactant | 2-(p-octyloxyphenyl)-5-methylpyridine | C(CCCCCCC)OC1=CC=C(C=C1)C1=NC=C(C=C1)C | C20H27NO
reactant | LDA | [Li+].CC(C)[N-]C(C)C
reactant | 1,2-epoxy-5-oxaoctane | O1CC1CCOCCC | C7H14O2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 2-(p-octyloxyphenyl)-5-(3-fluoro-6-oxanonyl)pyridine | C(CCCCCCC)OC1=CC=C(C=C1)C1=NC=C(C=C1)CCC(CCOCCC)F | C27H40FNO2
